US07923568B2
To a stirring solution of (8R,10aS)-6-(trifluoromethyl)-3,9,10,11-tetrahydro-8,10a-methanoazuleno[2,1-e]indazol-7(8H)-one (14 mg, 0.044 mmol) in EtOH (1 mL) was added sodium borohydride (6.7 mg, 0.18 mmol). The reaction mixture was stirred at room temperature for 1 hour after which saturated aqueous ammonium chloride was added in portions until bubbling stopped. The reaction mixture was then diluted with dichloromethane, dried over magnesium sulfate and filtered through a small pad of silica gel washing with ethyl acetate. The filtrate was concentrated under vacuum and the residue was purified by preparative TLC on silica gel (elution with 1:1 EtOAc/hexane) to give (7R,8R,10aS)-6-(trifluoromethyl)-3,7,8,9,10,11-hexahydro-8,10a-methanoazuleno[2,1-e]indazol-7-ol.

reactant | (8R,10aS)-6-(trifluoromethyl)-3,9,10,11-tetrahydro-8,10a-methanoazuleno[2,1-e]indazol-7(8H)-one | 0.044 mmol, 14 mg | FC(C=1C([C@@H]2CC[C@@]3(CC=4C=5C=NNC5C=CC4C13)C2)=O)(F)F | C17H13F3N2O
reactant | sodium borohydride | 0.18 mmol, 6.7 mg | [BH4-].[Na+]
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | EtOH | 1 mL | CCO | C2H6O
product | (7R,8R,10aS)-6-(trifluoromethyl)-3,7,8,9,10,11-hexahydro-8,10a-methanoazuleno[2,1-e]indazol-7-ol | FC(C=1[C@@H]([C@@H]2CC[C@@]3(CC=4C=5C=NNC5C=CC4C13)C2)O)(F)F | C17H15F3N2O
